US05064959
Preparation of 4-(4,6-bis(trichloromethyl)-s-triazin-2-yl)benzoic acid (method d)
4-(4,6-Bis(trichloromethyl)-s-triazin-2-yl)-benzoyl chloride pw) is added to a mixture of tetrahydrofuran (10 pw) and water (5 pw). To complete the reaction, 1 pw of triethylamine is added after 6 minutes, and the mixture is stirred for another 10 minutes. The solvent is removed by distillation, and the residue is recrystallized from toluene/benzine. The product is identical with the compounds described in Examples 12 and 16.

reactant | 4-(4,6-Bis(trichloromethyl)-s-triazin-2-yl)-benzoyl chloride | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C(=O)Cl)C=C1)(Cl)Cl | C12H4Cl7N3O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-(4,6-bis(trichloromethyl)-s-triazin-2-yl)benzoic acid | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C(=O)O)C=C1)(Cl)Cl | C12H5Cl6N3O2
